US08445493B2
(S)—N-(4,4-Difluorocyclohexyl)-4-(4,5-dimethyl-6-phenylpyridazin-3-yl)-2-methylpiperazine-1-carboxamide hydrochloride
Treat a mixture of (S)-4,5-dimethyl-3-(3-methylpiperazin-1-yl)-6-phenylpyridazine (199 mg, 0.70 mmol) and triethylamine (0.30 ml, 2.15 mmol) in DMSO (5 ml) with 2,2,2-trichloroethyl 4,4-difluorocyclohexylcarbamate (341 mg, 1.10 mmol). Heat the reaction at 100° C. for 4 d. Pour the reaction mixture into H2O, rinsing with EtOAc. Extract the mixture with EtOAc. Wash the organic layer twice with H2O, then brine. Dry over Na2SO4 and concentrate under reduced pressure. Purify the resulting residue by flash silica gel chromatography (gradient of 0 to 10% MeOH in CH2Cl2). Dissolve the purified free base in MeOH (1 mL) and treat with 1 M HCl in Et2O (1 mL). Concentrate the mixture to provide the title compound as a yellow foam (256 mg, 76%). ES/MS m/z 444.2 (M+1).

reactant | (S)-4,5-dimethyl-3-(3-methylpiperazin-1-yl)-6-phenylpyridazine | 0.70 mmol, 199 mg | CC1=C(N=NC(=C1C)C1=CC=CC=C1)N1C[C@@H](NCC1)C | C17H22N4
reactant | triethylamine | 2.15 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trichloroethyl 4,4-difluorocyclohexylcarbamate | 1.10 mmol, 341 mg | FC1(CCC(CC1)NC(OCC(Cl)(Cl)Cl)=O)F | C9H12Cl3F2NO2
reactant | H2O | O | H2O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | (S)—N-(4,4-Difluorocyclohexyl)-4-(4,5-dimethyl-6-phenylpyridazin-3-yl)-2-methylpiperazine-1-carboxamide hydrochloride | 256 mg, 76% | Cl.FC1(CCC(CC1)NC(=O)N1[C@H](CN(CC1)C=1N=NC(=C(C1C)C)C1=CC=CC=C1)C)F | InChI=1S/C24H31F2N5O.ClH/c1-16-15-30(13-14-31(16)23(32)27-20-9-11-24(25,26)12-10-20)22-18(3)17(2)21(28-29-22)19-7-5-4-6-8-19;/h4-8,16,20H,9-15H2,1-3H3,(H,27,32);1H/t16-;/m0./s1
